US04970213
A solution, at about 2° C., of 14.6 g of ethylamine in 200 cm3 of ethanol is added in the course of 10 minutes, at between 2° and 5° C., with stirring, to a suspension of 20 g of ethyl 2-(2-chloro-6,7-difluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate in 200 cm3 of ethanol at about 2° C., the mixture is stirred for a further 40 minutes at between 2° and 5° C. and the temperature is then allowed to rise to about 20° C. in the course of 2 hours. After 24 hours at about 20° C., the insoluble matter is drained and washed with 2 times 30 cm3 of ethanol and 2 times 50 cm3 of diisopropyl ether. 16.35 g of 3-ethoxycarbonyl-1-ethyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthridine are obtained in the form of a beige solid melting at 290° C.

reactant | ethylamine | 14.6 g | C(C)N | C2H7N
reactant | ethyl 2-(2-chloro-6,7-difluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate | 20 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)F | C17H15ClF2N2O3
solvent | ethanol | 200 cm3 | C(C)O | C2H6O
solvent | ethanol | 200 cm3 | C(C)O | C2H6O
product | 3-ethoxycarbonyl-1-ethyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthridine | 16.35 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)CC)C=C(C(=C3)F)F)=O | C17H14F2N2O3
